US04048332
A solution of ethyl 2-(2',4'-difluoro-2-hydroxy-4-biphenylyl)propionate (2.0 g.), from the previous Example, in dry ether (40 ml.) was added over 15 minutes in dry ether (40 ml.). After stirring under reflux for 1.5 hours, excess lithium aluminium hydride was decomposed by the cautious addition of water and finally with 2N sulphuric acid (10 ml.). The product was isolated in ether, washed, dried, evaporated and distilled to give a thick translucent oil, setting to a hard glass on cooling. Trituration with boiling light petroleum (b.p. 62°-68° C.) gave a crystalline solid. This was recrystallised from methylene chloride/light petroleum (b.p. 40°-60° C.) to give 2-(2',4'-difluoro-2-hydroxy-4-biphenylyl)propan-1-ol, m.p. 118°-118.5° C.

reactant | ethyl 2-(2',4'-difluoro-2-hydroxy-4-biphenylyl)propionate | 2.0 g | FC1=C(C=CC(=C1)F)C1=C(C=C(C=C1)C(C(=O)OCC)C)O | C17H16F2O3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sulphuric acid | 2N, 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
product | 2-(2',4'-difluoro-2-hydroxy-4-biphenylyl)propan-1-ol | FC1=C(C=CC(=C1)F)C1=C(C=C(C=C1)C(CO)C)O | C15H14F2O2
